US08748374B2
(2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(5-methylisoxazole-3-carboxamido)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate
To a solution of (2R,6S,13aS,14aR,16aS,Z)-14a-(ethoxycarbonyl)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-aminium 4-methylbenzenesulfonate (1.53 kg), 5-methylisoxazole-3-carboxylic acid (327 g), and NMP (4.74 kg) at 5° C. was added diisopropylethylamine (996 g). Propanephosphonic acid anhydride (817 g) was charged as a solution in EtOAc (817 g) and NMP (3.16 kg) to the reaction mixture. The reaction was allowed to proceed for 30 min at 5° C., then warmed to 20° C. and aged for an additional hour. The reaction solution was diluted with IPAc (10.5 kg) and 2-methyltetrahydrofuran (10.5 kg). The diluted reaction solution was washed with water (23.7 kg), a 1.0 M aqueous solution of H3PO4 (2×7.5 kg), water (7.9 kg), a 5% aqueous solution of NaHCO3 (7.5 kg), and then a 10% aqueous solution of NaCl (2×7.5 kg). The organic solution was concentrated under reduced pressure, diluted with THF (12 kg), and then filtered. Concentration of the organic solution to a volume of 5 L was followed by co-distillation with THF (30 kg) to a final volume of 5 L. The solution was diluted with THF (2.5 kg). The assay yield was determined on the product-containing solution to be 96.5% (1.35 kg).

reactant | (2R,6S,13aS,14aR,16aS,Z)-14a-(ethoxycarbonyl)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecin-6-aminium 4-methylbenzenesulfonate | 1.53 kg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C(C)OC(=O)[C@]12NC([C@H]3N(C([C@H](CCCCC\C=C/[C@@H]1C2)[NH3+])=O)C[C@@H](C3)OC(C3=CC=C(C=C3)[N+](=O)[O-])=O)=O
reactant | 5-methylisoxazole-3-carboxylic acid | 327 g | CC1=CC(=NO1)C(=O)O | C5H5NO3
reactant | diisopropylethylamine | 996 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-methyltetrahydrofuran | 10.5 kg | CC1OCCC1 | C5H10O
solvent | EtOAc | 817 g | CCOC(=O)C | C4H8O2
solvent | NMP | 3.16 kg | CN1CCCC1=O | C5H9NO
solvent | NMP | 4.74 kg | CN1CCCC1=O | C5H9NO
product | (2R,6S,13aS,14aR,16aS,Z)-ethyl 6-(5-methylisoxazole-3-carboxamido)-2-(4-nitrobenzoyloxy)-5,16-dioxo-1,2,3,5,6,7,8,9,10,11,13a,14,14a,15,16,16a-hexadecahydrocyclopropa[e]pyrrolo[1,2-a][1,4]diazacyclopentadecine-14a-carboxylate | CC1=CC(=NO1)C(=O)N[C@H]1CCCCC\C=C/[C@H]2[C@](NC([C@H]3N(C1=O)C[C@@H](C3)OC(C3=CC=C(C=C3)[N+](=O)[O-])=O)=O)(C2)C(=O)OCC | C32H37N5O10
